US05994378
A mixture of 5-benzyloxy-2-nitrophenylacetic acid (4.0 g) and conc. sulphuric acid (0.6 ml) in isopropyl alcohol (40 ml) was stirred under reflux for 1 day. After removal of solvent by evaporation, the resulting residue was dissolved with ethyl acetate. The ethyl acetate extract was washed successively with aqueous sodium hydrogen carbonate solution, water, and brine, and was dried over magnesium sulfate, and concentrated under reduced pressure to give isopropyl 5-benzyloxy-2-nitrophenylacetate (4.20 g).

reactant | 5-benzyloxy-2-nitrophenylacetic acid | 4.0 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)CC(=O)O)[N+](=O)[O-] | C15H13NO5
reactant | sulphuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropyl alcohol | 40 ml | C(C)(C)O | C3H8O
product | isopropyl 5-benzyloxy-2-nitrophenylacetate | 4.20 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)CC(=O)OC(C)C)[N+](=O)[O-] | C18H19NO5
